US05834499
To a solution of 0.68 g of 8-oxo-5,6,7,8-tetrahydroquinoline in 25 ml of acetic acid, 2.5 ml of a 25% solution of hydrobromic acid in acetic acid was added, followed by the dropwise addition of 0.235 ml of bromine. After stirring at room temperature for 30 minutes, the solvent was evaporated. The resulting residue was washed with diethyl ether, whereby 1.5 g of 7-bromo-8-oxo-5,6,7,8-tetrahydroquinoline hydrobromide was obtained.

reactant | 8-oxo-5,6,7,8-tetrahydroquinoline | 0.68 g | O=C1CCCC=2C=CC=NC12 | C9H9NO
reactant | hydrobromic acid | Br | BrH
reactant | bromine | 0.235 ml | BrBr | Br2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-8-oxo-5,6,7,8-tetrahydroquinoline hydrobromide | 1.5 g | Br.BrC1CCC=2C=CC=NC2C1=O | InChI=1S/C9H8BrNO.BrH/c10-7-4-3-6-2-1-5-11-8(6)9(7)12;/h1-2,5,7H,3-4H2;1H
